US06352982B1
To a methanol (5 ml) solution of 2-amino-3′-tert-butoxycarbonylamino-5-chlorobenzophenone (0.4 g) was added sodium borohydride (66 mg). The mixture was stirred for one hour at room temperature, to which was added acetic acid ethyl ester (l00.ml). The mixture was washed with water and dried over anhydrous MgSO4. The solvent was then distilled off, and the residue was purified by means of a silica gel column chromatography to afford the object 2-amino-5-chloro-α-(3-tert-butoxycarbonylaminophenyl)benzyl alcohol (0.4 g) as a colorless oily product.

reactant | methanol | 5 ml | CO | CH4O
reactant | 2-amino-3′-tert-butoxycarbonylamino-5-chlorobenzophenone | 0.4 g | NC1=C(C(=O)C2=CC(=CC=C2)NC(=O)OC(C)(C)C)C=C(C=C1)Cl | C18H19ClN2O3
reactant | sodium borohydride | 66 mg | [BH4-].[Na+]
solvent | acetic acid ethyl ester | C(C)OC(C)=O | C4H8O2
product | 2-amino-5-chloro-α-(3-tert-butoxycarbonylaminophenyl)benzyl alcohol | 0.4 g | NC1=C(C(C2=CC(=CC=C2)NC(=O)OC(C)(C)C)O)C=C(C=C1)Cl | C18H21ClN2O3
